US06653299B1
BOC-6-aminohexanoic acid (2.14 g, 9.25 mmol) was coupled to D-phenylalanine benzyl ester hydrochloride (2.7 g, 9.25 mmol) with Py-BOP in the presence of DIPEA, and the resulting product was hydrogenated in 95% ethanol at atmospheric pressure in the presence of 10% palladium over charcoal to afford BOC-6-aminohexanoyl-D-phenylalanine (3.35 g, 85%). The title compound was obtained by coupling BOC-6-aminohexanoyl-D-phenylalanine to Compound 2, deprotection and RP-HPLC as described for Compound 3.

reactant | BOC-6-aminohexanoic acid | 9.25 mmol, 2.14 g | C(=O)(OC(C)(C)C)C(C(=O)O)CCCCN | C11H21NO4
reactant | D-phenylalanine benzyl ester hydrochloride | 9.25 mmol, 2.7 g | Cl.C(C1=CC=CC=C1)OC([C@H](N)CC1=CC=CC=C1)=O
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | charcoal | C | CH4
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | BOC-6-aminohexanoyl-D-phenylalanine | 3.35 g, 85% | C(=O)(OC(C)(C)C)N([C@H](CC1=CC=CC=C1)C(=O)O)C(CCCCCN)=O | C20H30N2O5
